2161-03-20 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pt persistently tachycardic but never hypotensive
   - received valium prn for ?withdrawal
   - received 4 PRBC, 1 PLT, 2 FFP
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-3-19**] 10:17 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2161-3-19**] 11:30 PM
   Diazepam (Valium) - [**2161-3-20**] 02:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-20**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 109 (102 - 129) bpm
   BP: 157/76(92) {133/67(80) - 157/83(98)} mmHg
   RR: 33 (23 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
           Total In:
                                                                 11,481 mL
                                                                  1,897 mL
   PO:
           TF:
   IVF:
                                                                  2,963 mL
                                                                  1,240 mL
   Blood products:
                                                                    518 mL
                                                                    657 mL
   Total out:
                                                                  1,000 mL
                                                                  2,900 mL
   Urine:
                                                                  1,000 mL
                                                                  2,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,481 mL
                                                                 -1,003 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.43///28/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   48 K/uL
   7.0 g/dL
   121 mg/dL
   0.8 mg/dL
   28 mEq/L
   2.8 mEq/L
   16 mg/dL
   102 mEq/L
   142 mEq/L
   22.4 %
   4.1 K/uL
        [image002.jpg]
                             [**2161-3-19**]  09:03 PM
                             [**2161-3-20**]  03:10 AM
                             [**2161-3-20**]  05:16 AM
   WBC
   4.1
   Hct
   20.5
   22.4
   Plt
   28
   48
   Cr
   0.9
   0.9
   0.8
   Glucose
   146
   131
   121
   Other labs: PT / PTT / INR:16.8/29.8/1.5, ALT / AST:37/80, Alk Phos / T
   Bili:96/3.1, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:213 IU/L,
   Ca++:7.0 mg/dL, Mg++:1.5 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   This is a 49 y/o M w/ h/o ETOH cirrhosis with multiple previous
   admissions for UGIB [**2-23**] to [**Doctor First Name **] [**Doctor Last Name **] tear's and esophagitis who now
   represents with hematemesis.
   .
   # Upper GI Bleed: Likely [**2-23**] to esophagitis, [**Doctor First Name 1856**] [**Doctor Last Name **] tear,
   gastritis, PUD.  Hct from 30 -> 24 on presentation.  Unlikely variceal
   bleed given multiple recent scopes w/o varices, but will need EGD for
   further evaluation.
   - If does not bump appropriately with blood products will consult
   surgery.
   - Goal INR < 1.5
   - Maintain 2 cross matched units at all times
   - PPI ggt, d/c octreotide given low suspicion for variceal bleed
   - received Vitamin K 10mg x 1
   - Femoral line
   - 2 large bore IV's at all times
   - For massive bleeding activate Massive Transfusion Protocol for factor
   replacement
   - GI to perform EGD this AM ([**3-20**])
   .
   # Tachycardia: Likely combination of volume depletion and ETOH
   withdrawal (given hypertension and tachycardia).  Pt over 10L positive
   on admission but persistently tachycardic, unlikely to be solely volume
   depletion as never hypotensive.
   - limit fluids now, likely overloaded (vascular congestion on CXR)
   - follow fever curve
   - CIWA scale with ativan for ETOH withdrawal
   - follow UOP
   .
   # Fever/leukocytosis: Likely [**2-23**] to GIB, volume contraction, leukemoid
   reaction.  Continue to trend.  CXR without signs of infection.
   - f/u micro data
   .
   # ETOH Cirrhosis: hold nadolol, lactulose for now in setting of bleed.
   - CIWA scale q1H with ativan
   - Cipro for SBP prophylaxis per GI
   - f/u LFT's
   - received vitamin K, FFP
   - Thiamine, folate, MVI
   .
   # Depression: hold seroquel, restart when able to take PO's.
   .
   # FEN: IVF, blood, NPO  -> Pt will need aggressive electrolyte
   depletion for hypophosphatemia, hypokalemia, hypocalcemia and
   hypomagnesemia -> will check Q6H
   .
   # Prophylaxis: pneumoboots
   .
   # Access: peripherals, femoral line
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-3-19**] 08:03 PM
   18 Gauge - [**2161-3-19**] 08:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-03-21 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-20**] Events:
   - EGD showed severe esophagitis, likely contributing
   gastritis/duodenitis -> will need outpt f/u EGD in [**2-25**] weeks for biopsy
   HCt stable
   patient in withdrawl
   *pending ICU consent*
 ENDOSCOPY - At [**2161-3-20**] 10:45 AM
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-3-20**] 08:18 PM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2161-3-20**] 08:47 AM
   Midazolam (Versed) - [**2161-3-20**] 10:22 AM
   Fentanyl - [**2161-3-20**] 10:22 AM
   Pantoprazole (Protonix) - [**2161-3-20**] 09:15 PM
   Lorazepam (Ativan) - [**2161-3-21**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-21**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 92 (92 - 138) bpm
   BP: 145/79(94) {127/67(86) - 166/98(112)} mmHg
   RR: 21 (16 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,953 mL
                                                                    557 mL
   PO:
             TF:
   IVF:
                                                                  3,296 mL
                                                                    557 mL
   Blood products:
                                                                    657 mL
   Total out:
                                                                  7,130 mL
                                                                  1,530 mL
   Urine:
                                                                  7,130 mL
                                                                  1,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,177 mL
                                                                   -973 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   37 K/uL
   8.1 g/dL
   112 mg/dL
   0.7 mg/dL
   32 mEq/L
   2.8 mEq/L
   5 mg/dL
   100 mEq/L
   141 mEq/L
   23.3 %
   3.0 K/uL
        [image002.jpg]
                             [**2161-3-19**]  09:03 PM
                             [**2161-3-20**]  03:10 AM
                             [**2161-3-20**]  05:16 AM
                             [**2161-3-20**]  09:57 AM
                             [**2161-3-20**]  01:45 PM
                             [**2161-3-20**]  05:56 PM
                             [**2161-3-21**]  02:03 AM
   WBC
   4.1
   3.1
   3.0
   Hct
   20.5
   22.4
   22.8
   23.9
   24.1
   23.3
   Plt
   28
   48
   37
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   0.7
   Glucose
   146
   131
   121
   147
   127
   121
   112
   Other labs: PT / PTT / INR:17.2/28.5/1.6, ALT / AST:31/56, Alk Phos / T
   Bili:113/2.1, Amylase / Lipase:/226, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, LDH:213 IU/L, Ca++:6.9 mg/dL, Mg++:1.5 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
   This is a 49 y/o M w/ h/o ETOH cirrhosis with multiple previous
   admissions for UGIB [**2-23**] to [**Doctor First Name **] [**Doctor Last Name **] tear's and esophagitis who now
   represents with hematemesis.
   .
   # Upper GI Bleed: Likely [**2-23**] to esophagitis, [**Doctor First Name 1856**] [**Doctor Last Name **] tear,
   gastritis, PUD.  Hct from 30 -> 24 on presentation.  Unlikely variceal
   bleed given multiple recent scopes w/o varices, but will need EGD for
   further evaluation.
   - EGD yesterday with esophagitis, gastritis, and duodenitis that was
   the cause of bleeding
   - advancing diet today
   - Goal INR < 1.5
   - Maintain 2 cross matched units at all times
   - PPI ggt, d/c octreotide given low suspicion for variceal bleed
   - received Vitamin K 10mg x 1
   - Femoral line, will removed today after PIVs placed
   - For massive bleeding activate Massive Transfusion Protocol for factor
   replacement
   - appreciate GI recs
   .
   # Withdrawl / Tachycardia: Likely combination of volume depletion and
   ETOH withdrawal (given hypertension and tachycardia).  Pt over 10L
   positive on admission but persistently tachycardic, unlikely to be
   solely volume depletion as never hypotensive.
   - limiting fluids now, likely overloaded (vascular congestion on CXR),
   respiratory status is stable
   - CIWA scale with ativan for ETOH withdrawal
   .
   # Fever/leukocytosis: Likely [**2-23**] to GIB, volume contraction, leukemoid
   reaction.  Continue to trend.  CXR without signs of infection.
   - f/u micro data
   - no abx at this point, leukocytosis resolved today
   .
   # ETOH Cirrhosis: hold nadolol, lactulose for now in setting of bleed.
   - CIWA scale q1H with ativan
   - Cipro for SBP prophylaxis per GI
 can likely d/c prior to discharge
   - received vitamin K, FFP
   - Thiamine, folate, MVI
   .
   # Depression: restarting seroquel, now taking POs
   .
   # FEN: advancing diets, needed intense electrolyte repletion overnight
   and into morning, but now is back to baseline
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: peripherals, femoral line
 pulling today
   .
   # Code: DNR/DNI per mom, will check with patient today when mental
   status clears
   .
   # Communication: Patient
   .
   # Disposition: ICU, call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-3-19**] 08:03 PM
   18 Gauge - [**2161-3-19**] 08:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-03-21 12:12:00 Physician Attending Progress Note
Chief Complaint: GIB and ETOH withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   49 yo man with ETOH cirrhosis, admitted with UGIB.  EGD showed
   esophagitis/gastritis, no active bleed.  Began withdrawing yesterday
   with tremulousness.  Hct has been stable
   24 Hour Events:
 ENDOSCOPY - At [**2161-3-20**] 10:45 AM
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-3-21**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-3-20**] 09:15 PM
   Lorazepam (Ativan) - [**2161-3-21**] 12:50 AM
   Carafate (Sucralfate) - [**2161-3-21**] 08:30 AM
   Other medications:
   folate
   thiamin
   cipro
   valium:  [**3-20**] - 20mg over 24hrs and 10mg ativan.  [**3-21**]: ativan 2mg at
   1:00am
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2161-3-21**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 91 (88 - 131) bpm
   BP: 150/73(91) {127/70(87) - 163/92(110)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,953 mL
                                                                  1,370 mL
   PO:
             TF:
   IVF:
                                                                  3,296 mL
                                                                  1,370 mL
   Blood products:
                                                                    657 mL
   Total out:
                                                                  7,130 mL
                                                                  2,610 mL
   Urine:
                                                                  7,130 mL
                                                                  2,610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,177 mL
                                                                 -1,240 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   37 K/uL
   120 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   5 mg/dL
   101 mEq/L
   137 mEq/L
   23.3 %
   3.0 K/uL
        [image002.jpg]
                             [**2161-3-19**]  09:03 PM
                             [**2161-3-20**]  03:10 AM
                             [**2161-3-20**]  05:16 AM
                             [**2161-3-20**]  09:57 AM
                             [**2161-3-20**]  01:45 PM
                             [**2161-3-20**]  05:56 PM
                             [**2161-3-21**]  02:03 AM
                             [**2161-3-21**]  09:46 AM
   WBC
   4.1
   3.1
   3.0
   Hct
   20.5
   22.4
   22.8
   23.9
   24.1
   23.3
   Plt
   28
   48
   37
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   0.7
   Glucose
   146
   131
   121
   147
   127
   121
   112
   120
   Other labs: PT / PTT / INR:17.2/28.5/1.6, ALT / AST:31/56, Alk Phos / T
   Bili:113/2.1, Amylase / Lipase:/226, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, LDH:213 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   UGIB:  no further evidence of bleed, likely due to esophagitis and
   gastrititis
   ETOH withdrawl.  No longer tremulous, not ativen required since 1:00am.
   Access:  will try to place PIV and remove groin line.
   cirrhosis:  po cipro for 3 days for SBP prophylaxis
   ICU Care
   Nutrition:
   Comments: start po diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-3-19**] 08:03 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes